US06384080B1
To a mixture of (R)-N-(3,4-dimethoxybenzyl)-2-(2-hydroxy-1-methylethylamino)-5-nitrobenzamide (5.00 g), 4-dimethylaminopyridine (1.57 g, 12.8 mmol) and triethylamine (1.79 mL) in dichloromethane (150 mL) was added acetyl chloride (1.83 mL), and the mixture was stirred for 5 hours at ambient temperature. The mixture was washed with 1N-hydrochloric acid, water, an aqueous saturated sodium bicarbonate solution and brine. Then, the resultant was dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether. The obtained product was recrystallized from a mixture of ethyl acetate and hexane (1:1) to give (R)-2-(2-acetoxy-1-methylethylamino)-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide as yellow crystals (5.10 g).

reactant | (R)-N-(3,4-dimethoxybenzyl)-2-(2-hydroxy-1-methylethylamino)-5-nitrobenzamide | 5.00 g | COC=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])N[C@@H](CO)C)=O)C=CC1OC | C19H23N3O6
reactant | triethylamine | 1.79 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.83 mL | C(C)(=O)Cl | C2H3ClO
catalyst | 4-dimethylaminopyridine | 12.8 mmol, 1.57 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (R)-2-(2-acetoxy-1-methylethylamino)-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide | 5.10 g | C(C)(=O)OC[C@@H](C)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-] | C21H25N3O7
